US08461179B1
A solution of N-(3-(5-amino-2,4-difluorophenyl)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)-2-cyanoacetamide (0.5 g, 1.3 mmol) and K2CO3 (448 mg, 3.25 mmol) in THF (4 mL) was treated drop-wise with phenyl chloroformate (408 mg, 2.6 mmol) and heated at 60° C. overnight. The mixture was cooled to RT, concentrated to dryness, treated with water and extracted with EtOAc (2×). The combined organics were washed with brine, dried over Na2SO4, concentrated and purified via silica gel chromatography to afford phenyl (5-(7-(2-cyanoacetamido)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)carbamate (400 mg, 61% yield).

reactant | N-(3-(5-amino-2,4-difluorophenyl)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-7-yl)-2-cyanoacetamide | 1.3 mmol, 0.5 g | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)NC(CC#N)=O)CC)=O)F)F | C19H15F2N5O2
reactant | K2CO3 | 3.25 mmol, 448 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | phenyl chloroformate | 2.6 mmol, 408 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | phenyl (5-(7-(2-cyanoacetamido)-1-ethyl-2-oxo-1,2-dihydro-1,6-naphthyridin-3-yl)-2,4-difluorophenyl)carbamate | 400 mg, 61% yield | C(#N)CC(=O)NC1=NC=C2C=C(C(N(C2=C1)CC)=O)C=1C(=CC(=C(C1)NC(OC1=CC=CC=C1)=O)F)F | C26H19F2N5O4
